US07160875B2
(2RS)-Methyl-N-[(S)-2-oxo-1-(2,2,2-trifluoro-ethyl)-5-trifluoromethanesulfonyl-2,3,4,5-tetrahydro-1H-benzo[b][1,4] diazepin-3-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
In an analogous manner to that described in Example 26, the reaction of (2RS)-methyl-N-[(S)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide with trifluoromethanesulfonic acid anhydride yielded the title compound as an white amorphous material;

reactant | (2RS)-methyl-N-[(S)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | CC(C(=O)N[C@H]1CNC2=C(N(C1=O)CC(F)(F)F)C=CC=C2)C(=O)NCC(C(F)(F)F)(F)F | C18H18F8N4O3
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | (2RS)-Methyl-N-[(S)-2-oxo-1-(2,2,2-trifluoro-ethyl)-5-trifluoromethanesulfonyl-2,3,4,5-tetrahydro-1H-benzo[b][1,4] diazepin-3-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | CC(C(=O)N[C@H]1CN(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)S(=O)(=O)C(F)(F)F)C(=O)NCC(C(F)(F)F)(F)F | C19H17F11N4O5S
